US06890916B2
1-(4-Bromobutan-1-yl)-3,4-dihydroquinolin-2(1H)-one
from 3,4-dihydroquinolin-2(1H)-one and 1,4-dibromobutane

reactant | 3,4-dihydroquinolin-2(1H)-one | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 1-(4-Bromobutan-1-yl)-3,4-dihydroquinolin-2(1H)-one | BrCCCCN1C(CCC2=CC=CC=C12)=O | C13H16BrNO
